US06995144B2
1-(tert-Butoxycarbonyl)-4-[2-(methoxycarbonyl)phenoxymethyl]piperidine
After dissolving 300 mg of 1-(tert-butoxycarbonyl)-4-(methanesulfonyloxymethyl)piperidine in 3 ml of N,N-dimethylformamide, 0.16 ml of methyl salicylate, 180 mg of anhydrous potassium carbonate and tetra n-butylammonium iodide (catalytic amount) were added and the mixture was stirred at 100° C. for 1.5 hours. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (226 mg, 65% yield).

reactant | 1-(tert-butoxycarbonyl)-4-(methanesulfonyloxymethyl)piperidine | 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C | C12H23NO5S
reactant | potassium carbonate | 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | methyl salicylate | 0.16 ml | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
catalyst | tetra n-butylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(tert-Butoxycarbonyl)-4-[2-(methoxycarbonyl)phenoxymethyl]piperidine | 226 mg, 65% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)C(=O)OC | C19H27NO5
